US05409943
(b) N-(3-Benzyloxy-2-pyridyl)-N'-(4-cyanophenyl)guanidine
To a stirring suspension of N-(3-benzyloxy-2-pyridyl)-N'-(4-cyanophenyl)thiourea (2 g, 0.0055 mol) in ammonia-saturated methanol (40 ml) was added yellow mercuric oxide (3 g, 0.014 mol). Stirring was continued for 20 h, then the mixture filtered through celite, and the solid washed several times with chloroform. The filtrate was evaporated to a white solid, which was triturated with ether. Yield 1.12 g (59%), m.p. 173°-175 ° C.

reactant | N-(3-benzyloxy-2-pyridyl)-N'-(4-cyanophenyl)thiourea | 0.0055 mol, 2 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=S)NC1=CC=C(C=C1)C#N | C20H16N4OS
reactant | ammonia | 40 ml | N | H3N
product | N-(3-Benzyloxy-2-pyridyl)-N'-(4-cyanophenyl)guanidine | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=N)NC1=CC=C(C=C1)C#N | C20H17N5O
